US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with the tosylate prepared from 2-(1-adamantyloxy) ethanol (1.5 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The material from dichloromethane extraction was purified by HPLC (dichloromethane-hexane-ethyl acetate; 80:20:2) and crystallized from diethyl ether-hexane to provide 0.77 g of alpha-oxo-4-[[2-[tricyclo(3.3.1.1-3,7)dec-1-yloxy]ethyl]oxy]benzeneacetic acid, mp 107°-109° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | 2-(1-adamantyloxy) ethanol | 1.5 g | C12(CC3CC(CC(C1)C3)C2)OCCO | C12H20O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | alpha-oxo-4-[[2-[tricyclo(3.3.1.1-3,7)dec-1-yloxy]ethyl]oxy]benzeneacetic acid | 0.77 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCOC12CC3CC(CC(C1)C3)C2 | C20H24O5
